US07074800B1
3-Fluoro-7-methoxy-2-methylquinoline (0.16 g, 0.85 mmol) was taken up in dichloromethane (4 ml) under nitrogen and treated with boron tribromide solution (4 ml of a 11.0M solution in dichloromethane, 4.0 mmol). The reaction was stirred for 24 hours at ambient temperature followed by the slow addition of excess methanol. The solution was stirred for a further 2 hours and then evaporated to dryness to give 3-fluoro-7-hydroxy-2-methylquinoline which was used without further purification.

reactant | 3-Fluoro-7-methoxy-2-methylquinoline | 0.85 mmol, 0.16 g | FC=1C(=NC2=CC(=CC=C2C1)OC)C | C11H10FNO
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | methanol | CO | CH4O
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | 3-fluoro-7-hydroxy-2-methylquinoline | FC=1C(=NC2=CC(=CC=C2C1)O)C | C10H8FNO
